US08119692B2
2-(3-Methoxy-3-o-tolyl-propyl)-[1,3]dioxolane (Intermediate B10)
To a suspension of NaH (468 mg of a 60% dispersion in mineral oil, 11.7 mmol) in 35 mL THF was slowly added 3-[1,3]Dioxolan-2-yl-1-o-tolyl-propan-1-ol (290.0 mg, 1.3 mmol) as a solution in 15 mL THF at room temperature followed by the dropwise addition of methyl iodide (624 L, 1.4 g, 9.6 mmol). The mixture was stirred for 3 h at room temperature before being quenched by the careful addition of saturated aqueous NH4Cl (40 mL). The resulting mixture was extracted with ethyl acetate (3×30 mL) and the combined organic layers washed with brine (2×20 mL) and dried over sodium sulfate. The solvents were evaporated under reduced pressure and the product isolated by flash column chromatography eluting with 0% to 30% ethyl acetate/hexane to give 285 mg of the title compounds as an oil.

reactant | NaH | [H-].[Na+]
reactant | 3-[1,3]Dioxolan-2-yl-1-o-tolyl-propan-1-ol | 1.3 mmol, 290.0 mg | O1C(OCC1)CCC(O)C1=C(C=CC=C1)C | C13H18O3
reactant | methyl iodide | 9.6 mmol, 624 L, 1.4 g | CI | CH3I
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(3-Methoxy-3-o-tolyl-propyl)-[1,3]dioxolane | 285 mg | COC(CCC1OCCO1)C1=C(C=CC=C1)C | C14H20O3
